US07342007B2
b. (2S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)pent-4-enoic acid (4b)
To a solution of L-2-amino-4-pentenoic acid (9.88 g) in an aqueous Na2CO3 (9.11 g, 150 mL) at RT was added N-carboethoxyphthalimide (18.8 g). The reaction mixture was stirred for 6 h at RT, gradually becoming homogeneous. The reaction mixture was transferred to a separatory funnel and extracted with DCM (3×). The basic aqueous layer was made acidic with 2N HCl and extracted with DCM (3×). The combined DCM layer was washed with brine, dried (Na2SO4), filtered and evaporated. The crude product was purified via column chromatography (2% MeOH/DCM) to give a viscous oil (20.0 g), which crystallized upon standing. 1H NMR (300 MHz, CDCl3) δ 2.93-3.11 (m, 2H), 4.97-5.11 (m, 3H), 5.65-5.79 (m, 1H), 7.71-7.75 (m, 2H), 7.83-7.88 (m, 2H). MS APCI-m/z=246 (M+1). LCMS 1.91 min., Method A.

reactant | L-2-amino-4-pentenoic acid | 9.88 g | C=CC[C@@H](C(=O)O)N | C5H9NO2
reactant | N-carboethoxyphthalimide | 18.8 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | Na2CO3 | 150 mL, 9.11 g | C(=O)([O-])[O-].[Na+].[Na+]
product | (2S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)pent-4-enoic acid | 20.0 g | O=C1N(C(C2=CC=CC=C12)=O)[C@H](C(=O)O)CC=C | C13H11NO4
